US04962120
Ethyl 4,5-diphenyl-1H-imidazole-1-acetate
To a stirred suspension of 9.6 (0.24 mol) of 60% sodium hydride-mineral oil in 100 mL of DMF under nitrogen at 0° C. was added dropwise 50.0 g (0.226 mol) of 4,5-diphenylimidazole in 400 mL DMF. The mixture was allowed to warm, stirred at room temperature 1 hr, and 26.6 mL (0.24 mol) of ethyl bromoacetate was added. The reaction was stirred 18 hr at room temperature, heated on a steam bath 2 hr, cooled, and stripped. The residue was partitioned between water and methylene chloride, dried over MgSO4, and filtered through a silica gel column eluting with methylene chloride-ethyl acetate to provide 50.1 g of an oil that solidified on standing. It may be used in further reactions as is, or it may be recrystallized from ether to yield 35.1 g of product mp 89°-90° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 4,5-diphenylimidazole | 0.226 mol, 50.0 g | C1(=CC=CC=C1)C=1N=CNC1C1=CC=CC=C1 | C15H12N2
reactant | ethyl bromoacetate | 0.24 mol, 26.6 mL | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | Ethyl 4,5-diphenyl-1H-imidazole-1-acetate | 50.1 g | C1(=CC=CC=C1)C=1N=CN(C1C1=CC=CC=C1)CC(=O)OCC | C19H18N2O2
